US07645789B2
To a solution of 2-bromo-3-fluoroaniline (2.0 g, 11 mmol) in CH2Cl2 (50 mL) was added butyryl chloride (1.3 g, 13 mmol) and pyridine (1.7 g, 21 mmol) at 0° C. The mixture was stirred at room temperature for 24 h. Water (20 mL) was added and the mixture was extracted with CH2Cl2 (50 mL×3). The organic layers were dried anhydrous over Na2SO4 and evaporated under vacuum to give N-(2-bromo-3-fluorophenyl)butyramide (2.0 g, 73%), which was directly used in the next step.

reactant | 2-bromo-3-fluoroaniline | 11 mmol, 2.0 g | BrC1=C(N)C=CC=C1F | C6H5BrFN
reactant | butyryl chloride | 13 mmol, 1.3 g | C(CCC)(=O)Cl | C4H7ClO
reactant | pyridine | 21 mmol, 1.7 g | N1=CC=CC=C1 | C5H5N
reactant | Water | 20 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-bromo-3-fluorophenyl)butyramide | 2.0 g, 73% | BrC1=C(C=CC=C1F)NC(CCC)=O | C10H11BrFNO
